US08541411B2
c) 1 1-[(2,3-dichlorophenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxamide
A solution of KOH (78 mg, 1.4 mmol) in water (10 mL) was added dropwise to solution of 1-[(2,3-dichlorophenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carbonitrile (280 mg, 0.7 mmol) and 30% H2O2 (3 mL) in THF (10 mL) at rt. The mixture was heated at 50° C. for 2 h. When TLC showed no starting material left, the pH of the mixture was acidified to pH ca. 5 and extracted with EtOAc (50 mL×3). The organic layer was washed with brine, dried over MgSO4, concentrated. The resulting residue was purified by silica gel chromatography eluted with EtOAc to give the product (150 mg, 51%), as a white solid. 1H NMR (300 Mhz, DMSO-d6) δ ppm 2.44 (s, 3H), 3.11 (t, 4H, J=4.8 Hz), 3.71 (t, 4H, J=4.8 Hz), 5.60 (s, 2H), 6.31 (d, 1H, J=8.1 Hz), 7.16 (br s, 2H), 7.25 (t, 1H, J=8.1 Hz), 7.35 (d, 1H, J=1.8 Hz), 7.41 (d, 1H, J=1.8 Hz), 7.60 (d, 1H, J=8.1 Hz); LC-MS: m/e=419 [M+1]+

reactant | KOH | 1.4 mmol, 78 mg | [OH-].[K+]
reactant | 1-[(2,3-dichlorophenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carbonitrile | 0.7 mmol, 280 mg | ClC1=C(C=CC=C1Cl)CN1C(=NC2=C1C=C(C=C2C#N)N2CCOCC2)C | C20H18Cl2N4O
reactant | H2O2 | 3 mL | OO | H2O2
solvent | water | 10 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-[(2,3-dichlorophenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxamide | 150 mg, 51% | ClC1=C(C=CC=C1Cl)CN1C(=NC2=C1C=C(C=C2C(=O)N)N2CCOCC2)C | C20H20Cl2N4O2
